US07910561B2
tert-Butyl 4-(hydrazinocarbonyl)-piperidine-1-carboxylate (800 mg, 3.29 mmol) was dissolved in anhydrous 2-ethoxyethanol (10 mL) and 5-methoxypyridine-3-carbonitrile (662 mg, 4.9 mmol) was added to the solution. A solution of 0.5M sodium methoxide in methanol (3 mL, ˜1.5 mmol) was added and the mixture was heated at 130° C. for 16 h. The cooled reaction mixture was neutralized with acetic acid and partitioned between ethyl acetate and aq. NaHCO3. The organic layer was dried over Na2SO4, the salts removed by filtration and the solvent evaporated under vacuum. This residue was triturated with diethyl ether to give tert-butyl 4-[5-(6-methoxypyridin-3-yl)-4H-1,2,4-triazol-3-yl]piperidine-1-carboxylate as a white solid. This material was dissolved in methylene chloride (10 mL) and TFA (10 mL) was added. After one hour the solvent was evaporated under reduced pressure to give 2-methoxy-5-(5-piperidin-4-yl-4H-1,2,4-triazol-3-yl)pyridine. NMR (MeOD): δ 8.75 (1H, s), 8.19 (1H, d, J=6 Hz), 6.93 (1H, d, J=6 Hz), 3.95 (3H, s), 3.51 (2H, m), 3.22 (3H, m), 2.32 (2H, m), 2.11 (2H, m).

reactant | tert-Butyl 4-(hydrazinocarbonyl)-piperidine-1-carboxylate | 3.29 mmol, 800 mg | N(N)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21N3O3
reactant | 5-methoxypyridine-3-carbonitrile | 4.9 mmol, 662 mg | COC=1C=C(C=NC1)C#N | C7H6N2O
reactant | sodium methoxide | 0.5M | C[O-].[Na+]
reactant | methanol | ˜1.5 mmol, 3 mL | CO | CH4O
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | tert-butyl 4-[5-(6-methoxypyridin-3-yl)-4H-1,2,4-triazol-3-yl]piperidine-1-carboxylate | COC1=CC=C(C=N1)C=1NC(=NN1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H25N5O3
